US04473570
Using the method of Part H, Example 1, 5,7-bis(methylthio)-3-phenylimidazo[1,5-c]pyrimidine was reacted with aqueous sodium methoxide to provide 7-methylthio-3-phenylimidazo[1,5-c]pyrimidin-5-one, m.p. 198°-199° C. Analysis: Calculated for C13H11N3OS: %C, 60.7; %H, 4.3; %N, 16.3; Found: %C, 60.7; %H, 4.1; %N, 16.7.

reactant | 5,7-bis(methylthio)-3-phenylimidazo[1,5-c]pyrimidine | CSC1=NC(=CC=2N1C(=NC2)C2=CC=CC=C2)SC | C14H13N3S2
reactant | sodium methoxide | C[O-].[Na+]
product | 7-methylthio-3-phenylimidazo[1,5-c]pyrimidin-5-one | CSC=1C=C2N(C(N1)=O)C(N=C2)C2=CC=CC=C2 | C13H11N3OS
